US05288866
Preparation of Dimethyl 5-(bromomethyl)-2,3-pyridinedicarboxylate
A mixture of dimethyl 5-methyl-2,3pyridinedicarboxylate (30.0 g, 0.143 mol), N-bromosuccinimide (32.0 g, 0.18 mol) and 2,2'-azobisisobutyronitrile (0.9 g, 0.0055 mol) in carbon tetrachloride (200 mL) is heated at 80° C. for 1.5 hours. Additional 2,2'-azobisisobutyronitrile (0.9 g, 0.0055 mol) is added and the reaction mixture is heated at reflux for 2 hours, cooled to room temperature and filtered. The filter cake is washed with carbon tetrachloride. The filtrate and wash are combined, washed with water and concentrated in vacuo to give an oil. The oil is shown by HPLC to contain 57% of the title product, 16% dimethyl 5-methyl-2,3-pyridinedicarboxylate and 23% dimethyl 5-dibromomethyl-2,3-pyridinedicarboxylate.

reactant | dimethyl 5-methyl-2,3pyridinedicarboxylate | 0.143 mol, 30.0 g | CC=1C=C(C(=NC1)C(=O)OC)C(=O)OC | C10H11NO4
reactant | N-bromosuccinimide | 0.18 mol, 32.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2'-azobisisobutyronitrile | 0.0055 mol, 0.9 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | 2,2'-azobisisobutyronitrile | 0.0055 mol, 0.9 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | dimethyl 5-dibromomethyl-2,3-pyridinedicarboxylate | BrC(C=1C=C(C(=NC1)C(=O)OC)C(=O)OC)Br | C10H9Br2NO4
solvent | carbon tetrachloride | 200 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | Dimethyl 5-(bromomethyl)-2,3-pyridinedicarboxylate | 57% | BrCC=1C=C(C(=NC1)C(=O)OC)C(=O)OC | C10H10BrNO4
